US07737135B2
a) Ethyl (2-bromo-4-fluorophenoxy)acetate
The sub-title compound was prepared by the method of Example 2 step a) using 2-bromo-4-fluorophenol and ethyl bromoacetate.

reactant | 2-bromo-4-fluorophenol | BrC1=C(C=CC(=C1)F)O | C6H4BrFO
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | Ethyl (2-bromo-4-fluorophenoxy)acetate | BrC1=C(OCC(=O)OCC)C=CC(=C1)F | C10H10BrFO3
